US04608375
A mixture of 1-(3-bromopropyl)-2,4(1H,3H)-quinazolinedione (2.12 g), 1-diphenylmethylpiperazine (2.07 g), anhydrous potassium carbonate (3.1 g) and N,N-dimethylformamide (14 ml) was stirred for 2.5 hours at 100° C. After the reaction mixture was cooled to ambient temperature, to the mixture was added water and then stirred to give precipitates. The precipitates were collected by filtration and they were dissolved in hot chloroform containing a little quantity of methanol. The resultant solution was washed with saturated sodium chloride aqueous solution, dried over anhydrous sodium sulfate and concentrated in vacuo to give a crystal, which was washed enough with methanol and dried to give 1-[3-{4-(diphenylmethyl)piperazin-1-yl}propyl]-2,4(1H,3H)-quinazolinedione (1.6 g). This crystal was dissolved in 2N hydrochloric acid solution and then the solution was concentrated in vacuo to give a white crystal, which was washed with methanol, dissolved in water with warming and the solution was evaporated in vacuo. The resultant crystal was washed enough with methanol, to give 1-[3-{4-(diphenylmethyl)piperazin-1-yl}propyl]-2,4(1H,3H)-quinazolinedione.2HCl.0.7H2O (1.6 g).

reactant | 1-(3-bromopropyl)-2,4(1H,3H)-quinazolinedione | 2.12 g | BrCCCN1C(NC(C2=CC=CC=C12)=O)=O | C11H11BrN2O2
reactant | 1-diphenylmethylpiperazine | 2.07 g | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | potassium carbonate | 3.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[3-{4-(diphenylmethyl)piperazin-1-yl}propyl]-2,4(1H,3H)-quinazolinedione | 1.6 g | C1(=CC=CC=C1)C(N1CCN(CC1)CCCN1C(NC(C2=CC=CC=C12)=O)=O)C1=CC=CC=C1 | C28H30N4O2
